US04618708
N-(2-benzyl propenoyl)-glycine
2.10 (6.8 mmoles) of N-(2-benzyl propenoyl-glycine benzyl ester, M.P. =60° C, are stirred at 10° C. for 2 hours with a mixture of 30 ml of methanol and 0.27 g of NaOH (6.8 mmoles), dissolved in 5 ml of water. The pH is brought to 1 by the addition of 2N HCl and the material is extracted with ethyl acetate. The solvent is washed with 2×20 ml of water, dried and evaporated under a vacuum. 1.36 g of crystals are obtained.

reactant | 2-benzyl propenoyl-glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(=C)CC1=CC=CC=C1)=O)=O | C19H19NO3
reactant | methanol | 30 ml | CO | CH4O
reactant | NaOH | 6.8 mmoles, 0.27 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | N-(2-benzyl propenoyl)-glycine | 1.36 g | C(C1=CC=CC=C1)C(C(=O)NCC(=O)O)=C | C12H13NO3
